US04962224
Step (1) Preparation of N-[[6-Methoxy-2-(2,2,2-trifluoroethoxy)-5-(trifluoromethyl)-1-naphthalenyl]thioxomethyl]-N-methylglycine, Methyl Ester
Lawesson's reagent (3.20 g, 0.6 eq) was added to a stirred solution of N-[[6-methoxy-2-(2,2,2-trifluoroethoxy)-5-(trifluoromethyl)-1-naphthalenyl]carbonyl]-N-methylglycine, methyl ester, prepared by the process of Example 3, Step 1 (6.00 g, 13.2 mmol) in toluene (60 mL) at room temperature under argon. The reaction was heated to reflux for 111/2 hours, with more Lawesson's reagent (4.8 g, 0.9 eq) added in two portions after 21/4 and 83/4 hours. The reaction was cooled to room temperature and diluted with methylene chloride (300 mL). The crude reaction mixture was preabsorbed onto silica gel and flash chromatographed (petroleum ether→7:3 petroleum ether:ethyl acetate eluent gradient, silica) to provide the product as a yellow foam (3.94 g, 64%). A small sample was washed with petroleum. The filtrate was evaporated to dryness to provide a yellow solid for analysis, m.p. 104°-105° C.

reactant | Lawesson's reagent | 3.20 g, 0.6 eq | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | N-[[6-methoxy-2-(2,2,2-trifluoroethoxy)-5-(trifluoromethyl)-1-naphthalenyl]carbonyl]-N-methylglycine, methyl ester | COC=1C(=C2C=CC(=C(C2=CC1)C(=O)N(CC(=O)OC)C)OCC(F)(F)F)C(F)(F)F | C19H17F6NO5
reactant | Lawesson's reagent | 4.8 g, 0.9 eq | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | 300 mL | C(Cl)Cl | CH2Cl2
product | N-[[6-Methoxy-2-(2,2,2-trifluoroethoxy)-5-(trifluoromethyl)-1-naphthalenyl]thioxomethyl]-N-methylglycine, Methyl Ester | 3.94 g, 64% | COC=1C(=C2C=CC(=C(C2=CC1)C(N(CC(=O)OC)C)=S)OCC(F)(F)F)C(F)(F)F | C19H17F6NO4S
